US04022746
(d) 4-(3-Ethynylphenoxy)-o-phenylenediamine
To a rapidly stirred suspension of 25 g (0.38 g atom) of powdered zinc in 25 ml of concentrated ammonium hydroxide was added a solution containing 5.0 g (17.6 mmoles) of 4-(3-ethynylphenoxy)-o-dinitrobenzene dissolved in 25 ml of tetrahydrofuran. The mixture was stirred at room temperature for 1/2 hour, at which time an additional 5 ml of ammonium hydroxide was added, and the solution stirred an additional half hour. At that time, the reaction mixture was filtered by suction, and the residue was washed with several portions of tetrahydrofuran. The filtrate was extracted with several portions of ether, and the combined ether extracts washed with water. Evaporation of the organic layer in vacuo yielded a dark red oil. Chromatography of the residue on 1" × 12" dry column of silica gel afforded an initial red band (elution with methylene chloride) of side-product. Further elution using ethyl acetate produced a second band of desired product. Evaporation of solvent in vacuo yielded 3.3 g (84%) of 4-(3-ethynylphenoxy)-o-phenylenediamine as a dark orange oil.

reactant | 4-(3-ethynylphenoxy)-o-dinitrobenzene | 17.6 mmoles, 5.0 g | C(#C)C=1C=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC1 | C14H8N2O5
solvent | ammonium hydroxide | 25 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | zinc | 25 g | [Zn] | Zn
solvent | ammonium hydroxide | 5 ml | [OH-].[NH4+]
product | 4-(3-Ethynylphenoxy)-o-phenylenediamine | C(#C)C=1C=C(OC2=CC(=C(C=C2)N)N)C=CC1 | C14H12N2O
